US07265246B2
Combine 5-phenylfuran-2-carbaldehyde (808 mg, 4.69 mmol), methanol (2.0 mL), and nitromethane (1.13 mL) and cool. Add a combination of 0.20 mL of 1M sodium hydroxide and 0.70 mL of water to the reaction. Stir the reaction for 15 minutes, dilute with water (5 mL), add 1.0 mL of concentrated hydrochloric acid, and stir for 20 additional hours. Extract the reaction with ethyl acetate, dry organics, filter and evaporate to yield 1.14 g of 2-(2-nitrovinyl)-5-phenylfuran as a brown oil which can be used without further purification. MH+ 216.0

reactant | 5-phenylfuran-2-carbaldehyde | 4.69 mmol, 808 mg | C1(=CC=CC=C1)C1=CC=C(O1)C=O | C11H8O2
reactant | methanol | 2.0 mL | CO | CH4O
reactant | sodium hydroxide | 1M, 0.20 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1.0 mL | Cl | ClH
reactant | nitromethane | 1.13 mL | [N+](=O)([O-])C | CH3NO2
solvent | water | 5 mL | O | H2O
solvent | water | 0.70 mL | O | H2O
product | 2-(2-nitrovinyl)-5-phenylfuran | 1.14 g | [N+](=O)([O-])C=CC=1OC(=CC1)C1=CC=CC=C1 | C12H9NO3
